US08110687B2
Step 2: tert-butyl [7-({2-[(cyclopropylcarbonyl)amino]pyridin-4-yl}oxy)-1,2,3,4-tetrahydronaphthalen-2-yl]carbamate
A mixture of tert-butyl (7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)carbamate (2.07 g, 0.00707 mol), N-(4-nitropyridin-2-yl)cyclopropanecarboxamide (1.46 g, 0.00707 mol) and cesium carbonate (6.92 g, 0.0212 mol) in DMF was heated with stirring at 65° C. overnight. The reaction mixture was extracted with EtOAc. The organic solution was washed with water and brine, dried over MgSO4, filtered, and concentrated. The residue was purified by column chromatography to tert-butyl [7-({2-[(cyclopropylcarbonyl)amino]pyridin-4-yl}oxy)-1,2,3,4-tetrahydronaphthalen-2-yl]carbamate. 1H NMR (CDCl3, 300 MHz) δ: 9.18 (s, 1H); 8.02 (d, 1H); 7.82 (d, 1H); 7.32 (dd, 1H); 7.11 (d, 1H); 6.90 (d, 1H); 6.78 (s, 1H); 6.58 (dd, 1H); 4.60 (s, 1H); 4.1 (m, 1H); 3.96 (s, 1H); 3.10 (d, 1H); 2.86 (m, 2H); 2.61 (dd, 1H); 2.08 (m, 1H); 2.04 (m, 1H); 1.75 (m, 1H); 1.60 (m, 1H); 1.45 (s, 9H); 1.25 (m, 1H); 1.07 (m, 2H); 0.87 (m, 2H). LCMS ES+ 424.4; ES− 422.5.

reactant | tert-butyl (7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)carbamate | 0.00707 mol, 2.07 g | OC1=CC=C2CCC(CC2=C1)NC(OC(C)(C)C)=O | C15H21NO3
reactant | N-(4-nitropyridin-2-yl)cyclopropanecarboxamide | 0.00707 mol, 1.46 g | [N+](=O)([O-])C1=CC(=NC=C1)NC(=O)C1CC1 | C9H9N3O3
reactant | cesium carbonate | 0.0212 mol, 6.92 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | CN(C)C=O | C3H7NO
product | tert-butyl [7-({2-[(cyclopropylcarbonyl)amino]pyridin-4-yl}oxy)-1,2,3,4-tetrahydronaphthalen-2-yl]carbamate | C1(CC1)C(=O)NC1=NC=CC(=C1)OC1=CC=C2CCC(CC2=C1)NC(OC(C)(C)C)=O | C24H29N3O4
